US09216945B2
Another embodiment of the present application relates to a method of making 2-methoxymethyl-1,4-benzenediamine comprising the steps: (a) introducing ammonia to a 4-nitro-3-methoxymethyl-chlorobenzene to obtain 4-nitro-3-methoxymethyl-aminobenzene; and (b) hydrogenating the 4-nitro-3-methoxymethyl-aminobenzene in the presence of a hydrogenation catalyst to obtain the 2-methoxymethyl-1,4-benzenediamine.

reactant | 2-methoxymethyl-1,4-benzenediamine | COCC1=C(C=CC(=C1)N)N | C8H12N2O
reactant | ammonia | N | H3N
reactant | 4-nitro-3-methoxymethyl-chlorobenzene | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)COC | C8H8ClNO3
product | 4-nitro-3-methoxymethyl-aminobenzene | [N+](=O)([O-])C1=C(C=C(C=C1)N)COC | C8H10N2O3
